US06100258
6-[N-(5-Bromo-2-(2-chloroprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxylic acid
n-Butyl 6-[N-(5-bromo-2-(2-chloroprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxylate (0.24 g, 0.5 mmol) was dissolved in methanol (2 ml), THF (2 ml) and treated with aqueous 1N sodium hydroxide solution (2 ml). The resultant solution was left at ambient temperature for 1.5 hours, evaporated to low bulk and the resultant precipitate dissolved in water and acidified with acetic acid to give a gummy precipitate. It was extracted with methylene chloride and the organic extracts dried and evaporated to give a gum. Trituration with ether yielded a solid which was filtered and sucked dry to give the title compound as a white solid (0.16 g, 75%).

reactant | n-Butyl 6-[N-(5-bromo-2-(2-chloroprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxylate | 0.5 mmol, 0.24 g | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)OCCCC)C1)OCC(=C)Cl | C21H25BrClN3O3
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | 2 ml | CO | CH4O
product | 6-[N-(5-Bromo-2-(2-chloroprop-2-en-1-yloxy)benzyl)-N-ethylamino]pyridazine-3-carboxylic acid | 0.16 g, 75% | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)O)C1)OCC(=C)Cl | C17H17BrClN3O3
